*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-03[uF]/25[V]
* Murata P/N :GRM155R71E472KA01
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71E472KA01 Port1 Port2
C01 Port1 N01 4.66e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.60e-10
R03 N02 N03 9.99e-02
C04 N03 N04 5.88e-07
R04 N03 N04 2.74e+03
C05 N04 N05 7.36e-07
R05 N04 N05 1.58e+02
C06 N05 N06 7.01e-07
R06 N05 N06 1.51e+01
C07 N06 N07 6.63e-07
R07 N06 N07 2.22e+00
C08 N07 N08 4.38e-07
R08 N07 N08 4.72e-01
C09 N08 N09 2.35e-07
R09 N08 N09 1.13e-01
C10 N09 N10 8.34e-08
R10 N09 N10 4.61e-02
L11 N10 N11 6.20e-11
R11 N10 N11 2.00e-01
C12 N11 N12 1.11e-08
L12 N11 N12 1.27e-11
R12 N11 N12 4.79e-02
C13 N12 Port2 2.20e-12
L13 N12 Port2 1.21e-10
R13 N12 Port2 1.59e+01
.ENDS GRM155R71E472KA01
